US07495103B2
4-Hydroxyquinoline-3-carboxylic acid ethyl ester (15 g, 69 mmol) was suspended in sodium hydroxide solution (2N, 150 mL) and stirred for 2 h under reflux. After cooling, the mixture was filtered, and the filtrate was acidified to pH 4 with 2N HCl. The resulting precipitate was collected via filtration, washed with water and dried under vacuum to give 4-oxo-1, 4-dihydroquinoline-3-carboxylic acid (A-1) as a pale white solid (10.5 g, 92%). 1H NMR (d-DMSO) δ 15.34 (s, 1H), 13.42 (s, 1H), 8.89 (s, 1H), 8.28 (d, J=8.0 Hz, 1H), 7.88 (m, 1H), 7.81 (d, J=8.4 Hz, 1H), 7.60 (m, 1H).

reactant | 4-Hydroxyquinoline-3-carboxylic acid ethyl ester | 69 mmol, 15 g | C(C)OC(=O)C=1C=NC2=CC=CC=C2C1O | C12H11NO3
solvent | sodium hydroxide | 2N, 150 mL | [OH-].[Na+]
product | 4-oxo-1, 4-dihydroquinoline-3-carboxylic acid | 10.5 g, 92% | O=C1C(=CNC2=CC=CC=C12)C(=O)O | C10H7NO3
